US03944667
100 g of N-(3-chloro-4-cyano-5-dimethylamino-2-aza-2,4-pentadienylidene)N,N-dimethylammonium perchlorate are dissolved in a mixture of 400 ml of acetonitrile and 400 ml of water. Stirring is carried out for 6 hours at 20° to 22°C and is followed by double extraction with two 400 ml portions of trichloromethane. Following this the combined trichloromethane phases are extracted twice with two 1000 ml portions of water. The organic phase is dried with Na2SO4 or MgSO4 and reduced in volume by distilling off of the solvent at 30° to 35°C to a quarter of the original volume. After allowing the resultant to stand for one hour in an ice-box at about 0°C, the precipitate is vacuum filtered to yield yellowish crystals. 36 g (61%) of 3-chloro-5-dimethylamino-2-formyl-4-aza-2,4-pentadienenitrile, with a melting point of 144°C (with decomposition), are thus obtained.

reactant | N-(3-chloro-4-cyano-5-dimethylamino-2-aza-2,4-pentadienylidene)N,N-dimethylammonium perchlorate | 100 g | Cl(=O)(=O)(=O)[O-].ClC(=NC=[N+](C)C)C(=CN(C)C)C#N
solvent | acetonitrile | 400 ml | C(C)#N | C2H3N
solvent | water | 400 ml | O | H2O
product | 3-chloro-5-dimethylamino-2-formyl-4-aza-2,4-pentadienenitrile | 36 g, 61% | ClC(=C(C#N)C=O)N=CN(C)C | C7H8ClN3O
